US05776718
Synthesis of (S)-2-(4-morpholinecarbonylphenyl-alanyl)amino-4-phenyl-1-phenylsulfonylbutane (Mu-Phe-Hph-β-SO2Ph).
To a solution of Mu-PheOH (0.342 g, 1.23 mmol) in THF (10 mL) at -10° C. were added 4-methylmorpholine (0.135 mL, 1.23 mmol) and isobutyl chloroformate (0.159 mL, 1.23 mmol). The mixture was stirred for 10 minutes, whereupon (S)-2-amino-4-phenyl-1-phenylsulfonylbutane hydrochloride (0.40 g, 1.23 mmol) was added, followed by 4-methylmorpholine (0.135 mL, 1.23 mmol). The mixture was stirred for 45 minutes. 1M HCl (15 mL) was added. The product was extracted with ethyl acetate (30 mL), washed with saturated aqueous sodium bicarbonate (15 mL), brine (15 mL), dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The final product, Mu-Phe-Hph-β-SO2Ph, weighed 0.68 g (100% yield).

reactant | PheOH | 1.23 mmol, 0.342 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 4-methylmorpholine | 1.23 mmol, 0.135 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.23 mmol, 0.159 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (S)-2-amino-4-phenyl-1-phenylsulfonylbutane hydrochloride | 1.23 mmol, 0.40 g | Cl.N[C@H](CS(=O)(=O)C1=CC=CC=C1)CCC1=CC=CC=C1
reactant | 4-methylmorpholine | 1.23 mmol, 0.135 mL | CN1CCOCC1 | C5H11NO
reactant | HCl | 1M, 15 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-2-(4-morpholinecarbonylphenyl-alanyl)amino-4-phenyl-1-phenylsulfonylbutane | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N[C@@H](C)C(=O)N[C@H](CS(=O)(=O)C1=CC=CC=C1)CCC1=CC=CC=C1 | C30H35N3O5S
